US06495551B1
N-[(5S)-3-(3-Fluoro-4-(4-(2-Furoyloxymethyl)imidazol-1-yl)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide
N-[(5S)-3-(3-Fluoro-4-(4-hydroxymethylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-yl-methyl]acetamide (174 mg, 0.5 mM) and furan-2-carboxylic acid (168 mg, 1.5 mM) were suspended in dry dichloromethane (20 ml) under argon, and N,N-dimethylformamide dineopentyl acetal (462 mg, 2 mM) added. The mixture was stirred at ambient temperature for 48 hours giving a solution. The mixture was diluted with an equal volume of dichworomethane, and washed with sufficent 5% aqueous sodium bicarbonate to remove all acids. The organic phase was dried over magnesium sulfate, evaporated, and the residue dissolved in dichloromethane and chromatographed on a 5 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 10% methanol in dichloromethane. Relevant fractions were combined and evaporated to give the title product (184 mg).

reactant | N-[(5S)-3-(3-Fluoro-4-(4-hydroxymethylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-yl-methyl]acetamide | 0.5 mM, 174 mg | FC=1C=C(C=CC1N1C=NC(=C1)CO)N1C(O[C@H](C1)CNC(C)=O)=O | C16H17FN4O4
reactant | furan-2-carboxylic acid | 1.5 mM, 168 mg | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | N,N-dimethylformamide dineopentyl acetal | 2 mM, 462 mg | C(C(C)(C)C)OC(N(C)C)OCC(C)(C)C | C13H29NO2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-[(5S)-3-(3-Fluoro-4-(4-(2-Furoyloxymethyl)imidazol-1-yl)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide | 184 mg | FC=1C=C(C=CC1N1C=NC(=C1)COC(=O)C=1OC=CC1)N1C(O[C@H](C1)CNC(C)=O)=O | C21H19FN4O6
